US08709994B2
5% Ru/Al2O3 (3 g, 5 wt %), (2E)-3-(3-methylphenyl)acrylic acid (60 g, 0.37 mol) and acetic acid (300 mL) were charged into a 500 mL autoclave vessel. The mixture was vigorously stirred under a hydrogen atmosphere (40 bar) at 150° C., for 3 days. The catalyst was filtered and the product was dissolved in ethyl acetate (500 mL), washed with water (500 mL) and brine (500 mL). The organic phase was dried over sodium sulphate, filtered and evaporated to yield crude 3-(3-methylcyclohexyl)propanoic acid (60 g, 0.35 mol, 95% yield) as a colourless oil.

reactant | (2E)-3-(3-methylphenyl)acrylic acid | 0.37 mol, 60 g | CC=1C=C(C=CC1)/C=C/C(=O)O | C10H10O2
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | 3-(3-methylcyclohexyl)propanoic acid | 0.35 mol, 60 g, 95% yield | CC1CC(CCC1)CCC(=O)O | C10H18O2
